.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


* Deivce Parameters:
*--------------
.param PW= 0.63
.param AD = {PW*0.3}
.param AS={PW*0.3}
.param PS={2*(PW+0.3)} 
.param PD={2*(PW+0.3)}

.param PW1= 1.26
.param AD1 = {PW1*0.3}
.param AS1={PW1*0.3}
.param PS1={2*(PW1+0.3)}
.param PD1={2*(PW1+0.3)}

.param PWn= 0.42
.param ADn = {PWn*0.3}
.param ASn={PWn*0.3}
.param PSn={2*(PWn+0.3)}
.param PDn={2*(PWn+0.3)}

*------------Inveter for first input and load --------------
.subckt INVX1 A VPWR VGND Y
X0 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

C0 VPWR Y 0.13766f
C1 VPWR A 0.10451f
C2 Y A 0.03664f
C3 Y VGND 0.40665f
C4 VPWR VGND 0.82521f
.ends


.subckt BUFF vin vout vdd vss 

X0 vout a_30_20# vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X1 a_30_20# vin vdd vdd sky130_fd_pr__pfet_01v8 ad=0.4158 pd=3.18 as=0.444 ps=3.56 w=1.26 l=0.15
X2 a_30_20# vin vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X3 vout a_30_20# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.4158 pd=3.18 as=0.444 ps=3.56 w=1.26 l=0.15
C0 a_30_20# vin 0.0448f
C1 a_30_20# vdd 0.33132f
C2 vdd vout 0.15743f
C3 vin vdd 0.08304f
C4 a_30_20# vout 0.03682f
C5 vout vss 0.18863f
C6 vin vss 0.29585f
C7 vdd vss 1.25067f
C8 a_30_20# vss 0.39234f

.ends  

* The voltage source:
*--------------------------------------------------------
VDD vdd 0 DC 1.8

VIN1 CLK 0 PULSE(1.8 0 0 10p 10p 2n 4n)
*VIN3 CLKb 0 PULSE(0 1.8 0 10p 10p 1n 2n)
VIN2 D 0 PULSE(1.8 0 0 10p 10p 1n 3n)
.tran 1p 20n
*--------------------------------------------------------
*XINV3 D vdd 0 Db INVX1
*XINV2 CLK vdd 0 CLKb INVX1
*XDFF1 D CLK CLKb vdd 0 Y outb DFF
XINV4 D out vdd 0 BUFF
XINV1 out vdd 0 load INVX1

*Cload out 0 10f
    
*--------------------------------------------------------
.meas tran tr TRIG V(out) VAL=0.36 RISE=1 TARG V(out) VAL=1.44 RISE=1
.meas tran tf TRIG V(out) VAL=1.44 FALL=1 TARG V(out) VAL=0.36 FALL=1


*.meas tran tphl TRIG V(in1) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1
**.meas tran tplh TRIG V(in1) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1

* Power drawn from VDD.  The minus sign is required because SPICE reports
* current entering the positive terminal of VDD (a delivering source is negative).
* Measure 4 ns to 8 ns to exclude the initial transient; this is one full cycle.
*.meas tran pavg AVG par('-v(vdd)*i(VDD)') FROM=4n TO=8n
*.meas tran energy_per_cycle INTEG par('-v(vdd)*i(VDD)') FROM=4n TO=8n
*--------------------------------------------------------


.control
run

plot V(CLK) V(D) V(out)
*plot  V(in1) V(out)
*meas tran VM find V(out) when V(in1)=V(out) cross=-1
*print VM

.endc

.end
