* NGSPICE file - Buffer loaded with INVX1
* Technology: sky130A

*.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt


* ============================================================
* BUFFER
* ============================================================

.subckt BUF vin vout vdd vss

X0 vout a_30_20# vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

X1 a_30_20# vin vdd vdd sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15

X2 a_30_20# vin vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

X3 vout a_30_20# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15

.ends BUF


* ============================================================
* INVX1 LOAD
* ============================================================

.subckt not1 A VPWR VGND Y

xm01 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 l=0.15 w=1.26 as=0.378 ad=0.378 ps=3.12 pd=3.12

xm02 Y A VGND VGND sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 as=0.126 ad=0.126 ps=1.44 pd=1.44

.ends not1


* ============================================================
* SUPPLY
* ============================================================

Vdd vdd 0 DC 1.8


* ============================================================
* BUFFER -> INVX1 LOAD
* ============================================================

*XBUF in out vdd 0 BUF
XINV1 in vdd 0 out not1
XLOAD out vdd 0 load not1


* ============================================================
* INPUT
* ============================================================

V1 in 0 PULSE(0 1.8 0 20p 20p 180p 400p)


* ============================================================
* SIMULATION
* ============================================================

.control

.options method=gear

tran 1p 1n


* Rise time: 20% to 80%

meas tran tr trig v(out) val=0.36 rise=1 targ v(out) val=1.44 rise=1


* Fall time: 80% to 20%

meas tran tf trig v(out) val=1.44 fall=1 targ v(out) val=0.36 fall=1


* Propagation delay: input rising, output falling

meas tran tphl trig v(in) val=0.9 rise=1 targ v(out) val=0.9 fall=1


* Propagation delay: input falling, output rising

meas tran tplh trig v(in) val=0.9 fall=1 targ v(out) val=0.9 rise=2


* Average propagation delay

let tp = (tphl + tplh) / 2


print tr
print tf
print tphl
print tplh
print tp


plot v(in) v(out)

.endc

.end