AND2 static-power analysis: all DC input states
.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include dff_pex.spice


.param Cl = 0.5e-15
.param SR = 10e-12


VDD11 vdd11 0 1.8
VA11 a11 0 1.8
VB11 b11 0 1.8

X11 a11 b11 vdd11 0 y11 dff


* Input states 00, 01, 10. The original circuit below is state 11.
VDD00 vdd00 0 1.8
VA00  a00   0 0
VB00  b00   0 0
X00   a00 b00 vdd00 0 y00 AND2

VDD01 vdd01 0 1.8
VA01  a01   0 0
VB01  b01   0 1.8
X01   a01 b01 vdd01 0 y01 AND2

VDD10 vdd10 0 1.8
VA10  a10   0 1.8
VB10  b10   0 0
X10   a10 b10 vdd10 0 y10 AND2

.op
.control
op
let p_static_00 = -v(vdd00) * i(VDD00)
let p_static_01 = -v(vdd01) * i(VDD01)
let p_static_10 = -v(vdd10) * i(VDD10)
let p_static_11 = -v(vdd11) * i(VDD11)
print p_static_00 p_static_01 p_static_10 p_static_11
.endc
.end